US05393875
In an analogous manner to that described in Example 2, paragraph (c), by reacting (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride and hydroxymethylcyclopropane in pyridine there was obtained benzyl rac-α-[[[1-[(cyclopropylmethoxy)carbonyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamate as a colourless oil; MS: 459 (M+H)+.

reactant | (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride | C(C1=CC=CC=C1)OC(=O)C(CS(=O)(=O)C(C(=O)Cl)(C)C)CC1=CC=CC=C1 | C21H23ClO5S
reactant | hydroxymethylcyclopropane | OCC1CC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | benzyl rac-α-[[[1-[(cyclopropylmethoxy)carbonyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamate | C1(CC1)COC(=O)C(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C25H30O6S
